US09328110B2
To a vigorously stirred mixture of the 4-(2-butyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylbutan-1-one from the previous step in dichloromethane (49 mL) and ammonium hydroxide (16 mL) was added p-toluenesulfonyl chloride (2.34 g, 12.3 mmol) portionwise over several minutes. After 15 minutes the reaction mixture was diluted with chloroform (200 mL) and saturated aqueous sodium bicarbonate solution (100 mL). The layers were separated and the organic phase was washed again with a saturated aqueous sodium bicarbonate solution (100 mL). The aqueous portions were then back extracted with chloroform (50 mL). The organics were combined, dried over sodium sulfate, filtered, and concentrated to a dark yellow solid. The dark yellow solid was slurried in diethyl ether and filtered to form a fine off-white solid. This solid was recrystallized from N,N-dimethylformamide (DMF) and water to afford 4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylbutan-1-one as an off-white fluffy solid, mp 178-180° C.

reactant | 4-(2-butyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylbutan-1-one | C(CCC)C=1N(C2=C(C=[N+](C=3C=CC=CC23)[O-])N1)CCCC(=O)C1=CC=CC=C1 | C24H25N3O2
reactant | ammonium hydroxide | 16 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 12.3 mmol, 2.34 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 49 mL | ClCCl | CH2Cl2
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
product | 4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylbutan-1-one | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCC(=O)C2=CC=CC=C2)CCCC | C24H26N4O
